US08357634B2
To a stirred solution of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid [1-(3-iodo-phenyl)-ethyl]-methoxy-amide (0.2 g, 0.46 mmol), prepared as described in example P2, in a mixture of ethanol (12 ml) and water (4 ml) was added, 4-chloro-phenyl boronic acid (0.079 g, 0.5 mmol) followed by palladium acetate (0.052 g, 0.23 mmol) and potassium carbonate (0.19 g, 1.38 mmol). It was stirred for 18 hours at ambient temperature. Reaction mass was filtered on celite bed then diluted with water and extracted in ethyl acetate (3×60 ml), washed with water, brine and dried over anhydrous sodium sulfate. The crude mass was purified by column chromatography using 36% Ethyl acetate in hexane to yield 0.09 g (50% of theory) of 3-Difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid [1-(4′ chloro-biphenyl-3-yl)-ethyl]-methoxy-amide in form of a resin.

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid [1-(3-iodo-phenyl)-ethyl]-methoxy-amide | 0.46 mmol, 0.2 g | IC=1C=C(C=CC1)C(C)N(C(=O)C=1C(=NN(C1)C)C(F)F)OC | C15H16F2IN3O2
reactant | 4-chloro-phenyl boronic acid | 0.5 mmol, 0.079 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 1.38 mmol, 0.19 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | water | 4 ml | O | H2O
catalyst | palladium acetate | 0.23 mmol, 0.052 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid [1-(4′ chloro-biphenyl-3-yl)-ethyl]-methoxy-amide | 0.09 g, 50% | ClC1=CC=C(C=C1)C1=CC(=CC=C1)C(C)N(C(=O)C=1C(=NN(C1)C)C(F)F)OC | C21H20ClF2N3O2
